US07094769B2
Ethyl 6-[(2,2-diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carboxylate
To a suspension of palladium (II) acetate (1.50 g, 0.00668 moles) in absolute ethanol (1000 ml) was added 1,1′-bis(diphenylphosphino)ferrocene (7.00 g, 0.0126 moles) and the resultant suspension was stirred under an atmosphere of nitrogen for 18 hours to give the catalyst mixture. To a mixture of 2-chloro-N-(2,2-diphenylethyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (WO/0023457) (Preparation 2) (700 g, 1.61 moles) and absolute ethanol (4500 ml) in an autoclave was added anhydrous sodium carbonate (94 g, 0.887 moles) and the catalyst mixture prepared above. The autoclave was flushed twice with carbon monoxide gas, then pressurised to 2000 kPa using carbon monoxide gas. The mixture was then heated at 103–107° C. with stirring for 10 hours, and the autoclave was then vented, flushed with carbon monoxide, and then re-pressurised to 2000 kPa with carbon monoxide. Heating at 103–107° C. with stirring was continued for a further 14 hours. The mixture was cooled to 60° C. and then filtered through a bed of warm Celite (trade mark). The resultant filtrate was allowed to cool to ambient temperature whereupon crystallisation occurred and, after stirring at this temperature for 7 hours, the resultant suspension was filtered The filter cake was washed with cold absolute ethanol (500 ml) and the solid was dried in vacuo for 24 hours at 55° C. to give the title compound as a cream coloured solid (575 g), m.p. 138–140° C.

reactant | 2-chloro-N-(2,2-diphenylethyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.61 moles, 700 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24ClN5O
reactant | sodium carbonate | 0.887 moles, 94 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 1000 ml | C(C)O | C2H6O
reactant | ethanol | 4500 ml | C(C)O | C2H6O
catalyst | palladium (II) acetate | 0.00668 moles, 1.50 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.0126 moles, 7.00 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Ethyl 6-[(2,2-diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carboxylate | 575 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)OCC)C1OCCCC1)C1=CC=CC=C1 | C27H29N5O3
